US09085540B2
To a mixture of 5-(3-aminophenoxy)-6-ethyl-3-{[4-(4-methylpiperazin-1-yl)phenyl]amino}pyrazine-2-carboxamide (2 g), diisopropylethylamine (1.53 mL), and chloroform (100 mL) was added acryloyl chloride (508 μL) under ice-cooling, followed by stirring for 1 hour. Acryloyl chloride (363 μL) was added thereto, followed by stirring for 1 hour. The mixture was subject to liquid separation by the addition of chloroform and a saturated aqueous sodium hydrogen carbonate solution, and the organic phase was washed with saturated brine and then dried over anhydrous magnesium sulfate. The solvent was concentrated and the obtained residue was purified by silica gel column chromatography (chloroform:methanol:28% aqueous ammonia=1:0:0-200:10:1). Ethyl acetate was added thereto, the solid was collected by filtration and then dried under reduced pressure to obtain 5-[3-(acryloylamino)phenoxy]-6-ethyl-3-{[4-(4-methylpiperazin-1-yl)phenyl]amino}pyrazine-2-carboxamide (1.6 g) as a pale yellow solid.

reactant | 5-(3-aminophenoxy)-6-ethyl-3-{[4-(4-methylpiperazin-1-yl)phenyl]amino}pyrazine-2-carboxamide | 2 g | NC=1C=C(OC=2N=C(C(=NC2CC)C(=O)N)NC2=CC=C(C=C2)N2CCN(CC2)C)C=CC1 | C24H29N7O2
reactant | diisopropylethylamine | 1.53 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acryloyl chloride | 508 μL | C(C=C)(=O)Cl | C3H3ClO
reactant | Acryloyl chloride | 363 μL | C(C=C)(=O)Cl | C3H3ClO
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-[3-(acryloylamino)phenoxy]-6-ethyl-3-{[4-(4-methylpiperazin-1-yl)phenyl]amino}pyrazine-2-carboxamide | 1.6 g | C(C=C)(=O)NC=1C=C(OC=2N=C(C(=NC2CC)C(=O)N)NC2=CC=C(C=C2)N2CCN(CC2)C)C=CC1 | C27H31N7O3
